US07294644B2
5-(5-Chloro-2-methoxy-4-methyl-phenyl)-1-cyclopropylmethyl-2-methyl-1H-pyrrole-3-carboxylic acid cyclohexylamide
The title compound was synthesized in analogy to Example 68, using 3-oxo-butyric acid methyl ester as compound of formula R, 2-bromo-1-(5-chloro-2-methoxy-4-methyl-phenyl)-ethanone as compound of formula S, cyclopropanemethylamine as R3—(CH2)m—NH2 and cyclohexylamine as R1R2NH, MS (ISP) 415.5 (M+H)+.

reactant | 3-oxo-butyric acid methyl ester | COC(CC(C)=O)=O | C5H8O3
reactant | 2-bromo-1-(5-chloro-2-methoxy-4-methyl-phenyl)-ethanone | BrCC(=O)C1=C(C=C(C(=C1)Cl)C)OC | C10H10BrClO2
reactant | cyclopropanemethylamine | C1(CC1)CN | C4H9N
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
product | 5-(5-Chloro-2-methoxy-4-methyl-phenyl)-1-cyclopropylmethyl-2-methyl-1H-pyrrole-3-carboxylic acid cyclohexylamide | C1(CCCCC1)NC(=O)C1=C(N(C(=C1)C1=C(C=C(C(=C1)Cl)C)OC)CC1CC1)C | C24H31ClN2O2
